US04299830
A solution of ethanesulfonic acid (24 g.) in isopropyl alcohol (80 ml.) was added with warming (40°-50° C.) to a solution of 4-cyclopropylmethyl-9-amino-3,4,5,6-tetrahydro-2H-1,5-methano-1,4-benzodiazocine (26.9 g.) in methanol (120 ml.), affording 4-cyclopropylmethyl-9-amino-3,4,5,6-tetrahydro-2H-1,5-methano-1,4-benzodiazocine diethanesulfonate in two crops (34 g., m.r. 221-225° C.; 14 g., m.r. 211°-219° C.), the second of which was recrystallized from methanol-isopropyl alcohol (10 g., m.r. 221°-224° C.).

reactant | ethanesulfonic acid | 24 g | C(C)S(=O)(=O)O | C2H6O3S
reactant | 4-cyclopropylmethyl-9-amino-3,4,5,6-tetrahydro-2H-1,5-methano-1,4-benzodiazocine | 26.9 g | C1(CC1)CN1CCN2C3=C(CC1C2)C=CC(=C3)N | C15H21N3
solvent | isopropyl alcohol | 80 ml | C(C)(C)O | C3H8O
solvent | methanol | 120 ml | CO | CH4O
product | 4-cyclopropylmethyl-9-amino-3,4,5,6-tetrahydro-2H-1,5-methano-1,4-benzodiazocine diethanesulfonate | C(C)S(=O)(=O)O.C(C)S(=O)(=O)O.C1(CC1)CN1CCN2C3=C(CC1C2)C=CC(=C3)N | InChI=1S/C15H21N3.2C2H6O3S/c16-13-4-3-12-7-14-10-18(15(12)8-13)6-5-17(14)9-11-1-2-11;2*1-2-6(3,4)5/h3-4,8,11,14H,1-2,5-7,9-10,16H2;2*2H2,1H3,(H,3,4,5)
